US07456166B2
A solution of 11-cyclohexyl-N-[(dimethylamino)sulfonyl]-6-hydroxy-8-methoxy-6H-isoindolo[2,1-a]indole-3-carboxamide (cyclic hemiaminal) (63.0 g, 130 mmol), methyl 2-(dimethoxyphosphoryl)acrylate (60 g, 261 mmol), cesium carbonate (106 g, 326 mmol) in DMF (400 mL) was heated at 60° C. (bath temp) for 4.5 h. Additional methyl 2-(dimethoxyphosphoryl)acrylate (15 g, 65 mmol) and cesium carbonate (21.2 g, 65 mmol) were added and the reaction was heated at 60° C. overnight then and cooled to rt. The stirring reaction mixture was diluted with H2O (1 L), slowly neutralized with 1N aqueous HCl (800 mL), stirred 3 h, and then the precipitates were collected by filtration. The solids were triturated with Et2O (800 mL) and dried to yield methyl 7H-indolo[2,1-a][2]benzazepine-6-carboxylic acid, 13-cyclohexyl-10-[[[(dimethylamino)sulfonyl]amino]carbonyl]-3-methoxy-, methyl ester (70.2 g, 127 mmol, 98%) as a yellow solid which was used without further purification. 1HNMR (300 MHz, CDCl3) δ 8.67 (s, 1H), 8.09 (s, 1H), 7.86 (d, J=8.4 Hz, 1H), 7.80 (s, 1H), 7.50 (d, J=8.4 Hz, 1H), 7.42 (d, J=8.8 Hz, 1H), 7.08 (dd, J=2.6, 8.8 Hz, 1H), 6.98 (d, J=2.6 Hz, 1H), 5.75-5.51 (m, 1H), 4.29-4.01 (m, 1H), 3.89 (s, 3H), 3.82 (s, 3H), 3.05 (s, 6H), 2.87-2.73 (m, 1H), 2.11-1.12 (m, 10H). LCMS: m/e 550 (M−H)−, ret time 3.21 min, column A, 4 minute gradient.

reactant | 11-cyclohexyl-N-[(dimethylamino)sulfonyl]-6-hydroxy-8-methoxy-6H-isoindolo[2,1-a]indole-3-carboxamide | 130 mmol, 63.0 g | C1(CCCCC1)C1=C2N(C3=CC(=CC=C13)C(=O)NS(=O)(=O)N(C)C)C(C1=CC(=CC=C12)OC)O | C25H29N3O5S
reactant | methyl 2-(dimethoxyphosphoryl)acrylate | 261 mmol, 60 g | COP(=O)(OC)C(C(=O)OC)=C | C6H11O5P
reactant | cesium carbonate | 326 mmol, 106 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 2-(dimethoxyphosphoryl)acrylate | 65 mmol, 15 g | COP(=O)(OC)C(C(=O)OC)=C | C6H11O5P
reactant | cesium carbonate | 65 mmol, 21.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | HCl | 1N, 800 mL | Cl | ClH
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
solvent | H2O | 1 L | O | H2O
product | methyl 7H-indolo[2,1-a][2]benzazepine-6-carboxylic acid | CC1=CC=CC=2C=C(CN3C(C21)=CC=2C=CC=CC23)C(=O)O | C19H15NO2
